US07473669B2
Preparation of 3-(3-benzylphenyl)-1-(2,2,2-trifluoroethyl)-4,5-dihydro-1,2,4-triazin-6(1H)-one
A suspension of ethyl 3-benzylbenzenecarboximidoate (0.5 g, 1.8 mmol) in methylene chloride (100 mL) was washed with saturated aqueous sodium bicarbonate (2×80 mL) brine (50 mL), dried over magnesium sulfate and concentrated to 6 mL. To this was added benzylglycinate p-toluenesulfonate (0.615 g, 1.8 mmol) in portions over 10 minutes, stirred at room temperature under nitrogen for 14 hours, and concentrated under reduced pressure to leave a pink gum which was dissolved in absolute ethanol (6 mL). Following dropwise addition of a solution of 1,1,1-trifluoroethylhydrazine in ethanol (70 percent, 0.19 mL, 1.8 mmol), the reaction mixture was stirred at room temperature under nitrogen for 14 hours, adsorbed onto silica and chromatographed on silica, eluting with a ethyl acetate/hexane mobile phase. The major fraction was concentrated under reduced pressure to leave a fluffy, yellowish solid. Yield 0.345 g (63 percent). mp 104-106° C.; 1H NMR (CDCl3) δ 7.50-7.46 (m, 2H), 7.37-7.16(m, 7H), 4.9 (br, 1H), 4.40 (q, J=8.7 Hz, 2H), 4.12 (s, 2H), 4.02 (s, 2H); ES/MS 347 m/e (M+).

reactant | ethyl 3-benzylbenzenecarboximidoate | 1.8 mmol, 0.5 g | C(C1=CC=CC=C1)C=1C=C(C=CC1)C(OCC)=N | C16H17NO
reactant | benzylglycinate p-toluenesulfonate | 1.8 mmol, 0.615 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)NCC(=O)O
reactant | 1,1,1-trifluoroethylhydrazine | FC(CNN)(F)F | C2H5F3N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | ethanol | 1.8 mmol, 0.19 mL | C(C)O | C2H6O
product | 3-(3-benzylphenyl)-1-(2,2,2-trifluoroethyl)-4,5-dihydro-1,2,4-triazin-6(1H)-one | C(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NN(C(CN1)=O)CC(F)(F)F | C18H16F3N3O
